Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
"My friends brought me here."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
History was noted from Dr. ___ consult 
note from ___, and subsequent psychiatry CL notes in OMR, 
confirmed with patient and updated as relevant:
.
Briefly, ___ hx depression/anxiety BIB friends from ___ due to concern for suicidal statements. Psychiatry was 
consulted to perform a safety evaluation.
.
Mr. ___ reports that she was brought into the emergency 
department by her friends today after returning to their 
dormitory together.  She says that they brought her in because 
she was making statements about wanting to overdose on 
trazodone. She notes that she has felt quite depressed for years 
now and has had suicidal thoughts for the whole time.  The 
suicidal thoughts have increased in intensity and have become 
associated with the creation of plans over the past few months.  
She notes that her main stressor is her family moving away to 
___.  She also feels stressed by her nursing studies.  She not 
denies a history of suicide attempts or self-injurious behavior. 
 With regard to depressive symptoms she notes primarily low 
motivation and low energy.
.
History was limited by the patient's moderate level of 
intoxication on alcohol; she was moderately inattentive and her 
logical faculties seemed below the likely baseline of a 
functioning nursing student.
.
COLLATERAL:
Collateral obtained from friends ___ and ___ who are 
present in the emergency department.  They report knowing about 
Ms. ___ struggles with depression and anxiety and use of 
therapist over the past several years. To their knowledge she is 
not attempted suicide, self-harm, or express any sort of 
suicidal or self-harm sentiments to them.  The recount the 
events of the night as such: They first went out and drank 
alcohol together; they report that ___ became extremely 
intoxicated and so they tried to pull her together and get her 
back home; at home, she made continual statements about wanting 
to be dead.  ___ and ___ asked ___ if she had any plans 
for suicide to which she replied that she had been thinking 
about taking her saved up trazodone.  At that time, they decided 
that it was time to bring ___ in to the emergency 
department.
.
___ further note that ___ family troubles 
have been very significantly weighing on her.  In essence, 
___ is experiencing her family's move as if they are packing 
up and leaving her. This is in large part due not only to the 
geographic change but also there are statements to her that she 
is not welcome to return home after graduation. ___ and ___ 
further indicated that there may be additional stressors within 
the family unit and/or poor family support with regard to mental 
health issues."
.  
On admission to Deaconess ___, the pt endorses all of the above. 
Additionally, she states that is not the first time she voiced 
suicidal thoughts to her friends while inebriated. States it has 
occurred twice in the past, both times when she was under 
increased stress. The first time was in ___ while she 
was preparing for finals, and the second time was this past 
___ after returning from ___. Reports that spending 
time with her parents triggered the SI that second time as, 
"it's always a little stressful when I spend time with my 
parents... I think they expect more than what I'm capable of." 
She says her friends did not bring her to the hospital during 
these 2 previous events, however this time her friends felt that 
she would be safer here in the hospital than at home.  
.
While she does not remember much of the most recent episode that 
brought her into the hospital, she does remember the plan she 
voiced to her friends of overdosing on her trazodone, or ___ 
in front of traffic, though she denies any intention to carry 
out these plans. She states that she has been overwhelmed lately 
with school work and midterms approaching. 
.
Additionally the complex emotions she is feeling in light of her 
parents moving from ___ to ___ are an added 
stressor. While ___ is her home town, she feels like she 
never had much of a connection to the city. She states it feels 
like her parents are leaving her, though when pressed, she 
states that welcome her into the home should she choose to 
visit. At the same time she feels burdened by the expectations 
she has felt from them for her "entire life." Specifically, 
working as a ___, and living up to what her sister has 
done in her life. "My Sister is a pharmac___, and I think they 
want me to be more than 'just a ___,'" she said with air 
quotes. "I think they expect more from me than the normal 
daughter parent relationship." She goes on to report an 
indifference for whether that would change when her parents 
leave the region. She also endorses a guilt for pursuing a 
romantic relationship with her girlfriend given her parents 
religious stance against homosexuality. 
.
***Her parents DO NOT know of her orientation, nor her 
relationship with her girlfriend, and requests that her 
providers do not relate this information to her parents, though 
she gives her verbal permission to speak with them freely 
otherwise.
.
Reports worsening sleep, finding it more difficult to fall 
asleep and stay asleep. Recently visited her psychiatrist and 
her sleep improved with increased dose of Trazodone. Otherwise, 
interests have not changed, but motivation to accomplish goals 
along with ability to concentrate and energy has decreased, 
appetite has increased with trazodone rx, denies psychomotor 
agitation and retardation. 
.
Currently denies SI/HI/AVH/delusions/Symptoms of mania. Able to 
come to staff should she have inclinations to harm herself or 
others. States that the ideal outcome of this admission would be 
medication optimization and to be discharged with a clear 
diagnosis.  
 
Past Medical History:
Past psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
Hospitalizations: None
Current treaters and treatment: Connected with ___
psychiatry and therapy at the beginning of the semester.  Sees
Dr. ___ medications and "___" for therapy.
Medication and ECT trials:Lexapro 20 mg daily, trazodone 75
nightly
Self-injury: Denies
Harm to others: Denies
Access to weapons: Denies
.
Past medical history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
Denies
.
Medications: 
Escitalopram 20mg daily
Trazodone 75mg QHS PRN insomnia
.
Allergies: PENICILLIN
.

 
Social History:
___
Family History:
No known; remote family with alcoholism.
.
 
Physical Exam:
PHYSICAL EXAMINATION:
97.7 ___ 
.
General: ___ year old female in NAD. Well-nourished, 
well-developed. Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses 
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Multiple red scaly patchy rashes on arms, No abrasions, 
scars, or lesions.
.
Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation: 
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength: full power ___ throughout. DTRs: 2+ and 
symmetrical throughout. Sensation: Intact to light touch 
throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.
Romberg: Negative.
.
Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Speech: normal rate, volume, and tone
Language: Fluent ___ speaker, no paraphasic errors, 
appropriate to conversation
.
Mental Status:
Appearance: No apparent distress, appears stated age, well 
groomed, appropriately dressed
Behavior: Calm, cooperative, engaged, friendly, pleasant,
appropriate eye contact, no psychomotor agitation or retardation
Mood and Affect: "Alright" / Blunted, reactive, appropriate to 
situation, congruent with mood
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies SI/HI/AH/VH, no evidence of delusions or 
paranoia
 
Pertinent Results:
___ 03:45AM URINE  UCG-NEGATIVE

___ 03:45AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG

___ 03:45AM URINE  COLOR-Straw APPEAR-Clear SP ___

___ 03:45AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG

___ 03:15AM   GLUCOSE-114* UREA N-7 CREAT-0.7 SODIUM-143 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-26 ANION GAP-17

___ 03:15AM   ASA-NEG ___ ACETMNPHN-NEG 
tricyclic-NEG

___ 03:15AM   WBC-10.3* RBC-4.66 HGB-13.8 HCT-41.3 MCV-89 
MCH-29.6 MCHC-33.4 RDW-13.5 RDWSD-43.7

___ 03:15AM   NEUTS-77.3* LYMPHS-17.5* MONOS-3.7* EOS-0.2* 
BASOS-0.7 IM ___ AbsNeut-8.00* AbsLymp-1.81 AbsMono-0.38 
AbsEos-0.02* AbsBaso-0.07

___ 03:15AM   PLT COUNT-316

Cholest 172 Triglyc 154 HDL 43 LDLcalc 98 
HbA1c 5.2
BP 136/88
Height: 65 in. ___ 
Weight: 81.1 kgs. (178.79 lbs) ___ 
BMI: 29.___. LEGAL & SAFETY:
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on 15 minute 
checks status (least restrictive level of monitoring) on 
admission and remained on that level of observation throughout 
while being unit restricted. After several days' 
hospitalization, having demonstrated treatment compliance and 
improvement in suicidal ideation, the patient was offered access 
to fresh air groups.
.
2. PSYCHIATRIC:
# Major Depressive Disorder
On admission, the patient endorsed several months of worsening 
depression characterized by low mood, poor sleep, anhedonia, 
impaired concentration, lack of motivation, and suicidal 
ideation; though her suicidal ideation had previously been 
passive, she began recently experiencing increasingly 
distressing thoughts of suicide (e.g. walking into traffic or 
overdosing on trazodone). Patient's presentation appeared most 
consistent with an acute worsening of her previously diagnosed 
major depressive disorder. Patient reported improvement in her 
mood with initiation and titration of Lexapro to 20 mg PO daily. 
Following a discussion of the risks and benefits of adding 
augmentation agents vs transitioning to another antidepressant, 
patient expressed her preference to maintain Lexapro and 
initiate Abilify, ultimately titrated to 4 mg with improvement 
in residual symptoms without notable side effects. Trazodone 75 
mg PO qHS was continued. The patient was encouraged to 
participate in groups intended to provide psychoeducation and 
cultivate various coping skills and did so with success.  She 
reported improvement in her mood and denied any suicidal 
ideation in the final days of her admission; furthermore, she 
was future and goal oriented showing good insight and judgment 
into her condition and future plans.
.
3. SUBSTANCE USE DISORDERS:
Alcohol Use Disorder
#) Patient described intermittent social alcohol use but 
admitted to drinking heavily prior to her presentation, 
experiencing a blackout. She was counseled on the importance of 
abstinence from substances. The patient denied alcohol 
dependence precluding the initiation of agents such as 
naltrexone or acamprosate.
.
4. MEDICAL: No acute medical issues.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. She was also observed in the 
milieu to be social with her peers and pleasant and easily 
engaged when approached by staff members. 
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
With the patient's permission, primary team spoke with the 
patient's mother in regards to her presentation, admission, and 
discharge plans.
.
#) INTERVENTIONS
- Medications: Lexapro 20 mg PO daily, Abilify 4mg PO qHS, 
Trazodone 75 mg PO qHS
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy
- Coordination of aftercare:
- Behavioral Interventions (e.g. encouraged DBT skills): 
Supportive psychotherapy
.
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication Abilify, and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.  We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any questions about medications with the treatment team. The 
patient appeared able to understand and consented to begin the 
medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
numerous depressive symptoms including low mood, insomnia, and 
suicidal ideation characterized by intrusive and dystonic 
thoughts of walking into traffic or overdosing on medications.  
Their static factors noted at that time include LGBT identity; 
modifiable risk factors, including insomnia and suicidal 
ideation were addressed through the initiation of medications as 
well as supportive psychotherapy and participation in groups 
intended to help patients cultivate coping skills.  Finally, the 
patient is being discharged with many protective risk factors, 
including goal- and future-oriented view, strong social 
supports, therapeutic relationships with outpatient treaters, 
medication compliance, responsibility to family, and good coping 
skills.  Patient demonstrated preserved capacity to engage in a 
meaningful conversation about safety planning regarding what she 
would do in the event that thoughts of suicide or self-harm 
returned (e.g. she would contact her therapist, contact on-call 
clinician at school, call ___, or present to the ___. Overall, 
based on the totality of our assessment at this time, the 
patient is not at an acutely elevated risk of self-harm nor 
danger to others.
.
MODIFIABLE RISK FACTORS
Suicidal ideation without intent/plan.
.
PROTECTIVE RISK FACTORS
Help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family, life satisfaction, reality testing 
ability, good coping skills, good problem-solving skills, 
positive therapeutic relationship with outpatient providers, no 
history of substance use disorder, no history of abuse, ability 
to tolerate rejection, and strong social supports.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 20 mg PO DAILY 
2. TraZODone 75 mg PO QHS 

 
Discharge Medications:
1.  ARIPiprazole 4 mg PO QHS 
RX *aripiprazole 2 mg 2 tablet(s) by mouth at night Disp #*28 
Tablet Refills:*0 
2.  Escitalopram Oxalate 20 mg PO DAILY 
RX *escitalopram oxalate 20 mg 1 tablet(s) by mouth in the 
morning Disp #*14 Tablet Refills:*0 
3.  TraZODone 75 mg PO QHS 
RX *trazodone 50 mg 1.5 tablet(s) by mouth at night Disp #*21 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder 

 
Discharge Condition:
VS: 98.8 PO, 136 / 88, 80, 16, 99% 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, slightly anxious but pleasant on examination, no 
psychomotor aberrations noted
S: normal rate, volume, prosody 
M: 'Better' 
A: anxious, mood congruent, appropriate 
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert, responds to questions appropriately 
I/J: improving/improving 

Ambulatory Status: Ambulatory - As tolerated

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___